US07968598B2
Under a nitrogen atmosphere, 0.59 g of N,N-dicyclohexyl carbodiimide was added to a mixture of 0.55 g of 4-methyl-2,3,5,6-tetrafluorobenzyl alcohol, 0.51 g of (1R)-trans-3-(2-cyano-1-propenyl)-2,2-dimethylcyclopropanecarboxylic acid, 0.10 g of 4-dimethylaminopyridine and 7 ml of anhydrous dichloromethane, and the mixture was stirred at room temperature for 3 hours. Thereafter, the reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to obtain 0.72 g of 4-methyl-2,3,5,6-tetrafluorobenzyl(1R)-trans-3-(2-cyano-1-propenyl)-2,2-dimethylcyclopropanecarboxylate represented by the following formula:

reactant | 4-methyl-2,3,5,6-tetrafluorobenzyl alcohol | 0.55 g | CC1=C(C(=C(CO)C(=C1F)F)F)F | C8H6F4O
reactant | (1R)-trans-3-(2-cyano-1-propenyl)-2,2-dimethylcyclopropanecarboxylic acid | 0.51 g | C(#N)C(=C[C@H]1C([C@@H]1C(=O)O)(C)C)C | C10H13NO2
catalyst | 4-dimethylaminopyridine | 0.10 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
product | 4-methyl-2,3,5,6-tetrafluorobenzyl(1R)-trans-3-(2-cyano-1-propenyl)-2,2-dimethylcyclopropanecarboxylate | 0.72 g | C(#N)C(=C[C@H]1C([C@@H]1C(=O)OCC1=C(C(=C(C(=C1F)F)C)F)F)(C)C)C | C18H17F4NO2
